Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
Headache, left hand clumsiness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ is a ___ left-handed man with a 
history of hypertension not on medications, bladder cancer 
diagnosed in ___, who presents with headache and left hand 
clumsiness.

History is obtained from the patient.  He is otherwise in his 
usual state of health on ___, when he woke up in the 
morning without any issues.  He went to the ___ game later 
in the morning.  While he was there, he noticed the gradual 
onset of a dull pressure like headache in the right 
retro-orbital
region.  This is associated with photophobia.  He felt nauseous, 
and vomited once.  He also reported a stiff neck but no focal 
deficits at that time.  He was able to make it back home without 
additional issues.  He has persistent headaches even when he got 
back, decided to sleep to see if it would go away.  He woke up 
on ___ morning feeling slightly better, but with an ongoing
headache.  He was still able to go to work and perform his 
duties.  This morning, he woke up again with persistent 
headache, which was improving, however when at work, he noticed 
that he had issues with coordination of fine movements using the 
left hand. He noticed this while he was trying to type, because 
he felt very clumsy.  Reported dropping cups.  He also in 
addition, he felt that he had difficulty walking, and explained 
has "my feet are
not doing what they are supposed to be doing".  He was unsure to 
describe it, he but he felt that his feet were dragging or that 
he did not have control over them.  He decided to come into the 
emergency department for further evaluation.
Of note, he denies any recent trauma. 

No motor vehicle accidents.  No lifting of heavy objects.  He 
does not participate in active sports.  No neck manipulations. 
No abnormal positioning of his head.  Currently, he reports that 
his headache has mostly improved.

He denies any numbness, weakness, fevers, vertigo, dysarthria,
hearing changes.  No constitutional symptoms.

 
Past Medical History:
1. Hypertension, diagnosed a few years ago apparently not on
medications
2. Bladder cancer, diagnosed in ___.  Most of this workup and
treatment was at ___, when he initially
presented with hematuria.  He underwent multiple cystoscopies
over the subsequent ___ years, did not receive chemotherapy or
radiation, and was told that he was disease-free
 
Social History:
___
Family History:
Family history notable for CAD in his father and diagnosed in 
the early ___ or ___.  Mother with myasthenia ___.  Strong 
history of colon cancer multiple grandparents both maternal and 
paternal. Sister had two  miscarriages.
 
Physical Exam:
ON ADMISSION
============
Vitals:  T: 98.4   HR: 67 BP: 169/98 RR: 18 SaO2: 98% on room 
air
General:  NAD
HEENT: NCAT,  no oropharyngeal lesions, neck supple
___: RRR, no M/R/G
Pulmonary: Breathing comfortably on room air
Abdomen: Soft, NT, ND, +BS, no guarding
Extremities: Warm, no edema
Neurologic Examination:
- Mental status: Awake, alert, oriented x 3. Able to relate 
history without difficulty. Attentive, able to name ___ backward 
without difficulty. Speech is fluent with full sentences, intact 
repetition, and intact verbal comprehension. Naming intact.  No 
paraphasias.  No dysarthria. Normal prosody. Able to register 3 
objects and recall ___ at 5 minutes. No apraxia. No evidence of 
hemineglect. No left-right confusion. Able to follow both 
midline and appendicular commands.
- Cranial Nerves: PERRL 4->2 brisk.  Left esotropia, known to 
have congenital strabismus (sister has same eye configuration). 
VF full to number counting. EOMI, no nystagmus. V1-V3 without 
deficits to light touch bilaterally. No facial movement 
asymmetry. Hearing intact to finger rub bilaterally.  Palate 
elevation symmetric. SCM/Trapezius strength ___ bilaterally. 
Tongue midline.
- Motor:  Normal bulk and tone. Subtle left pronation without 
drift. No tremor or asterixis.  
  [___]
L   5     5    5    5    ___    5     5   5    5    5
R   5     5    5    5    ___    5     5   5    5    5  
- Reflexes: 
   [Bic] [Tri] [___] [Quad] [___]
 L  3+    3+     2+      2        1
 R  2+    2+     2+      2+       1  
Plantar response flexor bilaterally 
- Sensory: No deficits to light touch, pin, or proprioception 
bilaterally.  No extinction to DSS.
- Coordination: No dysmetria with finger to nose testing 
bilaterally.  He has significant difficulty with fine movements 
of his left hand including alternating finger tapping.  No 
evidence of over/undershoot with mirroring tasks. good speed and 
intact cadence with rapid alternating movements.
- Gait: Normal initiation. Narrow base. Normal stride length and 
arm swing.  Unable to tandem due to significant instability, 
tends to lean over to the left.  Romberg with sway.

ON DISCHARGE
============
Vitals: Tm/c: 98.3/98.3 BP: 160/106 HR: 59 RR: 16 SaO2: 95%RA
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM
Pulmonary: Breathing comfortably, no tachypnea nor increased WOB
Cardiac: Heart RRR, S1 and S2 nl, no murmurs. Skin warm,
well-perfused. 
Abdomen: round, non-distended; soft, non-tender.
Extremities: Symmetric, no edema. 
Neurologic:
-Mental Status: Alert, oriented x 3. Attentive, MOYB without 
difficulty. Language fluent with intact repetition and 
comprehension. Speech regular rate, rhythm, volume with no 
paraphasic errors. Naming intact to high and low frequency 
objects. Able to follow both midline and appendicular commands. 
-Cranial Nerves: PERRL 4-2cm brisk. VFF to confrontation. There 
congenital esotropia of the left eye. EOMI with 3 beats of left 
beating nystagmus on left gaze. Facial sensation intact to light 
touch. Face symmetric at rest and with activation. Hearing 
intact to finger rub bilaterally. Palate elevates symmetrically. 
___ strength in trapezii and SCM bilaterally. Tongue protrudes 
inmidline.
-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally.
No adventitious movements, such as tremor, noted. No asterixis
noted.
   Delt Bic Tri WrE FFl FE IO IP Quad Ham TA ___
 L  5    ___   ___  5   5    5  5     5     5   5
 R  5    ___   ___  5   5    5  5     5     5   5
-Sensory: Proprioception intact BUE. Intact to LT throughout. No 
deficits to light touch, pinprick, cold sensation, vibratory 
sense, proprioception throughout. No extinction to DSS. Romberg 
negative.
-DTRs:
   Bi Tri ___ Pat Ach
 L  2  2    2    2   1
 R  2  2    2    2   1
Plantar response was flexor bilaterally.
-Coordination: No dysdiadochokinesia noted. Mild dysmetria on 
FNF in left hand, none on the right. Mild overshoot in mirroring 
tasks in left hand only. Heel to shin without dysmetria or 
ataxia bilaterally.
-Gait: Normal initiation. Narrow base. Normal stride length and 
arm swing. Some instability and wobbling to left side on tandem 
gait but is able to maintain a straight line without deviating 
course. Walks on heels and toes without difficulty. There is 
posturing of the left hand on tandem gait. Very mild sway with 
Romberg but no fall. 

 
Pertinent Results:
___ 04:40AM BLOOD %HbA1c-4.6 eAG-85
___ 04:40AM BLOOD Triglyc-122 HDL-68 CHOL/HD-2.8 LDLcalc-97
___ 04:40AM BLOOD TSH-6.3*
___ 04:40AM BLOOD D-Dimer-257

CT HEAD WITHOUT CONTRAST: 
There is no evidence of no evidence of territorial infarction, 
intracranial hemorrhage, edema, mass, or mass effect.  The 
ventricles and sulci are normal in size and configuration.   
The visualized portion of the paranasal sinuses, mastoid air 
cells, and middle ear cavities are clear. The visualized portion 
of the orbits are unremarkable. 
  
CTA HEAD: 
The vessels of the circle of ___ and their principal 
intracranial branches appear normal without stenosis, occlusion, 
or aneurysm formation.  The dural venous sinuses are patent. 
  
CTA NECK: 
There is complete occlusion of the right internal carotid artery 
starting 
approximately 2 cm above bifurcation, with reconstitution at the 
petrous 
segment. The left internal carotid artery is patent without 
evidence of 
narrowing.  There is patency of the anterior cerebral arteries 
and middle 
cerebral arteries bilaterally.  There is no evidence of 
aneurysm. No evidence of vertebral stenosis. 
OTHER: 
The visualized portion of the lungs are clear.  The visualized 
portion of the thyroid gland is within normal limits. There is 
no lymphadenopathy by CT size  criteria. 
IMPRESSION:   
1. Complete occlusion of the right internal carotid artery 2 cm 
above the 
bifurcation with reconstitution at the petrous segment. 
2. The left internal carotid artery and the anterior and middle 
cerebral 
arteries are patent. 

TTE: 
The left atrial volume index is normal. The right atrium is 
moderately dilated. No atrial septal defect or patent foramen 
ovale is seen by 2D, color Doppler or saline contrast with 
maneuvers. The estimated right atrial pressure is ___ mmHg. Left 
ventricular wall thickness, cavity size and regional/global 
systolic function are normal (LVEF >55%). No masses or thrombi 
are seen in the left ventricle. Right ventricular chamber size 
and free wall motion are normal. The diameters of aorta at the 
sinus, ascending and arch levels are normal. The number of 
aortic valve leaflets cannot be determined. There is no aortic 
valve stenosis. Trace aortic regurgitation is seen. The mitral 
valve appears structurally normal with trivial mitral 
regurgitation. There is no mitral valve prolapse. The pulmonary 
artery systolic pressure could not be determined. There is a 
trivial/physiologic pericardial effusion. 
 IMPRESSION: Suboptimal image quality. No definite cardiac 
source of embolism identified. Normal left ventricular wall 
thickness, cavity size, and regional/global systolic function. 
No definite pathologic valvular flow identified

MRI HEAD W/O CONTRAST:
There are multiple foci of slow diffusion in the region of the 
posterior right insular cortex, posterior right corona radiata, 
centrum semiovale, posterior body of the right caudate nucleus 
and and posterior right temporal parietal lobe junction, 
consistent with acute infarcts.  This is in region of occluded 
or near occluded posterior right sylvian M3 MCA branch, which 
has subtle positive susceptibility vessel sign, suggestive of 
thrombus on gradient images.  Scratched there is no evidence of 
hemorrhage, mass effect or midline shift. 
There is loss of the flow void within the visualized right ICA 
extending to the carotid terminus and correlating with that seen 
on the recent CTA head and neck.  The ventricles and sulci are 
normal in caliber and configuration.   
IMPRESSION: 
1. Multiple foci of acute right MCA distribution infarct, 
secondary to 
occlusion or near occlusion of the posterior right sylvian M3 
MCA branch. 
2. Partially seen is high cervical right ICA occlusion, similar. 


MRA NECK:
1. Complete occlusion of the right ICA at the junction of the 
high cervical and proximal petrous segment, most likely from ICA 
dissection.  Significant narrowing of the remainder of the right 
cervical ICA segment, extending from just distal to the 
bifurcation.  Reconstituted flow from collaterals in the petrous 
segment and distally. . 

 
Brief Hospital Course:
___ is a ___ left-handed man with a 
history of hypertension not on medications, bladder cancer 
diagnosed in ___, who presents with headache and left hand 
clumsiness. His exam on admission was notable for clumsiness of 
the left hand, mildly asymmetric reflexes, and a mildly unstable 
gait which is not frankly ataxic. His CTA demonstrates a right 
internal carotid artery occlusion after the bifurcation with 
distal reconstitution. MRI showed ischemic stroke in the 
posterior right insular cortex, posterior right corona radiata, 
centrum semiovale, posterior body of the right caudate nucleus 
and and posterior right temporal parietal lobe junction. These 
are believed to be caused by his dissection. An MRA confirmed 
the dissection. A TTE was obtained to rule out a PFO or 
intracardiac mass/thrombus, and was unremarkable.

Due to heavy clot burden, extending from approximately the 
carotid bifurcation to the petrous segment, it was decided to 
anticoagulate him with Coumadin. He was agreeable to this. He 
will follow with his PCP's office for INR draws. 

Other stroke risk factors include:
1) A1c 4.6%
2) LDL 97

TRANSITIONAL ISSUES:
-Anticoagulate with Coumadin for 3 months (from ___, goal INR 
___
-Would recommend repeat MRA in the 3 months to evaluate for 
repair of dissection
-Continue to monitor blood pressure, consider initiation of 
pharmacotherapy if indicated. Blood pressure ranged between 120 
and 140 systolic during admission. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1.  Enoxaparin Sodium 100 mg SC BID Duration: 7 Days 
RX *enoxaparin 100 mg/mL 100 mg SC twice a day Disp #*14 Syringe 
Refills:*0 
2.  Warfarin 5 mg PO DAILY 
RX *warfarin 5 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*2 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Acute ischemic stroke
Internal carotid artery dissection, right
Hypertension

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr ___,
  
 You were hospitalized due to symptoms of headache and left hand 
clumsiness resulting from an ACUTE ISCHEMIC STROKE, a condition 
where a blood vessel providing oxygen and nutrients to the brain 
is blocked by a clot. The brain is the part of your body that 
controls and directs all the other parts of your body, so damage 
to the brain from being deprived of its blood supply can result 
in a variety of symptoms.  

 Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
We believe your stroke was caused by a dissection, or a tear in 
the wall of an artery. This is often caused by injury to the 
neck, such as in car accidents. However, it can sometimes occur 
without any injury.

 We are changing your medications as follows:  
 Start Coumadin 5mg daily. You will need this for 3 months. Dr. 
___ will follow your INR (Coumadin level) closely.
 Start Lovenox ___ injection twice daily. You only need to do 
this until your INR is in the correct range. Please follow Dr. 
___ instructions.

 Please take your other medications as prescribed.  

 Please follow up with Neurology and your primary care physician 
as listed below.  
 If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___